US07592362B2
1-(2-Chloro-5-methoxyphenyl)ethanone
To a solution of SELECTFLUOR™ (5.0 g, 14.1 mmol) and sodium chloride (825 mg, 14.1 mmol) in acetonitrile (200 ml), under nitrogen, was added 1-(3-methoxyphenyl)ethanone (1.94 ml, 14.1 mmol) and the reaction mixture was stirred at room temperature for 5 days. To the mixture was added distilled water (200 ml) and the solution was extracted with dichloromethane (2×100 ml). The combined extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (silica) with gradient elution, ethyl acetate:cyclohexane [5:95 to 10:90]. The appropriate fractions were combined and concentrated to give the title compound (1.12 g).

reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | sodium chloride | 14.1 mmol, 825 mg | [Cl-].[Na+]
reactant | 1-(3-methoxyphenyl)ethanone | 14.1 mmol, 1.94 ml | COC=1C=C(C=CC1)C(C)=O | C9H10O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-(2-Chloro-5-methoxyphenyl)ethanone | 1.12 g | ClC1=C(C=C(C=C1)OC)C(C)=O | C9H9ClO2
